US08563577B2
Preparation of (R)-quinuclidin-3-yl 2-phenyl-2-(o-tolylamino)-acetate (I23)
PS-DCC (1.15 g, 1.44 mmol, loading: 1.25 mmol/g) was suspended in THF (15 ml). 2-Phenyl-2-(o-tolylamino)acetic acid hydrochloride (I22) (200 mg, 0.72 mmol) and HOBT (221 mg, 1.44 mmol) were added, followed by (R)-quinuclidin-3-ol (275 mg, 2.16 mmol), and the mixture was stirred for 16 hours at room temperature. PS-DCC was removed by filtration, and the filtrate was evaporated. The resulting residue was dissolved in EtOAc and washed sequentially with water, sat. NaHCO3, water and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give the title compound (260 mg, quantitative yield, mixture of diastereomers).

reactant | DCC | 1.44 mmol, 1.15 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-Phenyl-2-(o-tolylamino)acetic acid hydrochloride | 0.72 mmol, 200 mg | Cl.C1(=CC=CC=C1)C(C(=O)O)NC1=C(C=CC=C1)C
reactant | HOBT | 1.44 mmol, 221 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 2.16 mmol, 275 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-phenyl-2-(o-tolylamino)-acetate | 260 mg, quantitative yield | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)NC2=C(C=CC=C2)C | C22H26N2O2
